US09102591B2
A solution of 3-cyclopropyl-2-(6-(1-ethoxyvinyl)pyridin-3-yl)propanenitrile (2 g, crude) in THF (10 mL) was added 4N HCl (10 mL) and stirred at room temperature for 2 h. The reaction mixture was adjusted pH to 6-7 by 4M aq.NaOH and extracted with EtOAc (3×20 mL). The combined organic layers were dried over Na2SO4 and concentrated. The crude product was purified by column chromatography on silica gel (EtOAc: Petroleum ether=1:10) to give 2-(6-acetylpyridin-3-yl)-3-cyclopropylpropanenitrile (600 mg, yield: 60%) 1H NMR (CDCl3 varian 400): δ8.58-8.51 (m, 1H), 7.95 (d, J=8.0 Hz, 1H), 7.75 (dd, J=8.0 Hz, 2.4 Hz, 1H), 3.92-3.85 (m, 1H), 2.61 (s, 3H), 1.88-1.79 (m, 1H), 1.71-1.65 (m, 1H), 0.75-0.67 (m, 1H), 0.49-0.45 (m, 2H), 0.10-0.03 (m, 2H).

reactant | 3-cyclopropyl-2-(6-(1-ethoxyvinyl)pyridin-3-yl)propanenitrile | 2 g | C1(CC1)CC(C#N)C=1C=NC(=CC1)C(=C)OCC | C15H18N2O
reactant | HCl | 4N, 10 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(6-acetylpyridin-3-yl)-3-cyclopropylpropanenitrile | 600 mg, yield: 60% | C(C)(=O)C1=CC=C(C=N1)C(C#N)CC1CC1 | C13H14N2O
